US08067621B2
Step 3: 2-[(4-Chloro-phenylsulfanyl)-(2,3,6-trifluoro-phenyl)-methyl]-malonic Acid Dimethyl Ester
2-(2,3,6-Trifluoro-benzylidene)-malonic acid dimethyl ester (6.5 g, 23.7 mmol) and 4-chlorothiophenol (5.1 g, 35.5 mmol) were dissolved in 100 mL THF. K2CO3 (5 g, excess) was added, the reaction mixture was stirred at 60° C. for three hours. 300 mL of EtOAc and 300 mL of water were added. The organic layer was separated, washed with water, dried over Na2SO4 and concentrated. The product was purified by column chromatography using EtOAc/hexane as the eluent. (Gradient from 0/100 to 25/75 in 45 min, 7.1 g, 72%). 1H NMR (CDCl3 400 MHz) δ 7.26 (m, 4H), 7.03 (m, 1H), 6.75 (m, 1H), 5.08 (d, J=11.7 Hz, 1H), 4.34 (d, J=12.4 Hz, 1H), 3.84 (s, 3H), 3.56 (s, 3H).

reactant | 2-(2,3,6-Trifluoro-benzylidene)-malonic acid dimethyl ester | 23.7 mmol, 6.5 g | COC(C(C(=O)OC)=CC1=C(C(=CC=C1F)F)F)=O | C12H9F3O4
reactant | 4-chlorothiophenol | 35.5 mmol, 5.1 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | K2CO3 | 5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 300 mL | O | H2O
product | 2-[(4-Chloro-phenylsulfanyl)-(2,3,6-trifluoro-phenyl)-methyl]-malonic Acid Dimethyl Ester | COC(C(C(=O)OC)C(C1=C(C(=CC=C1F)F)F)SC1=CC=C(C=C1)Cl)=O | C18H14ClF3O4S
